US07465815B2
To a solution of 5-(benzylamino)-2,2,4,6-tetramethyl-1-benzofuran-3 (2H)-one obtained in Reference Example 51 (8.5 g, 28.8 mmol) in methanol (20 mL) was added sodium borohydride (2.18 g, 57.6 mmol) at room temperature, and the mixture was stirred for 2 hours. The reaction solution was concentrated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain the crude product, 5-(benzylamino)-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-3-ol. To a mixture of said compound with trifluoroacetic acid (30 mL) was added triethylsilane (10 mL, 64 mmol) with ice-cooling, and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure, and to the residue was added a saturated sodium hydrogen carbonate solution to alkalify the aqueous layer, which was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The obtained residue was crystallized with ethyl acetate-hexane to obtain 4.1 g (yield 51%) of the title compound. Melting point: 80-81° C. (ethyl acetate-hexane).

reactant | 5-(benzylamino)-2,2,4,6-tetramethyl-1-benzofuran-3 (2H)-one | C(C1=CC=CC=C1)NC=1C(=CC2=C(C(C(O2)(C)C)=O)C1C)C | C19H21NO2
reactant | sodium borohydride | 57.6 mmol, 2.18 g | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 5-(benzylamino)-2,2,4,6-tetramethyl-2,3-dihydro-1-benzofuran-3-ol | C(C1=CC=CC=C1)NC=1C(=CC2=C(C(C(O2)(C)C)O)C1C)C | C19H23NO2
